US04559341
6.6 g (0.02 mol) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(piperazin-1-yl)-quinoline-3-carboxylic acid are dissolved in a solution of 0.4 g of sodium hydroxide in 40 ml of water, and a solution of 3.2 g (0.022 mol) of methyl 4-isocyanato-butyrate in 12 ml of dioxane is added, while cooling with ice. Thereafter, stirring is continued for 2 hours at room temperature, the pH is adjusted to 5 with 2N hydrochloric acid and the precipitate is filtered off under suction and recrystallised from methanol. 6 g (63% of theory) of 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-{4-[(3-methoxycarbonylpropyl)-carbamoyl]-piperazin-1-yl}-quinoline-3-carboxylic acid of melting point 198°-200° C. are obtained.

reactant | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-(piperazin-1-yl)-quinoline-3-carboxylic acid | 0.02 mol, 6.6 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCNCC1)F)=O)C(=O)O | C17H18FN3O3
reactant | methyl 4-isocyanato-butyrate | 0.022 mol, 3.2 g | N(=C=O)CCCC(=O)OC | C6H9NO3
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | sodium hydroxide | 0.4 g | [OH-].[Na+]
solvent | water | 40 ml | O | H2O
solvent | dioxane | 12 ml | O1CCOCC1 | C4H8O2
product | 1-cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-{4-[(3-methoxycarbonylpropyl)-carbamoyl]-piperazin-1-yl}-quinoline-3-carboxylic acid | 6 g, 63% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CCN(CC1)C(NCCCC(=O)OC)=O)F)=O)C(=O)O | C23H27FN4O6
